US08871753B2
Step A: (2-Iodo-4-nitrophenyl)methanol
To a solution of methyl 2-iodo-4-nitrobenzoate (25.6 g, 83.4 mmol) in THF (400 mL) was added lithium tetrahydroborate (2.2 g, 92 mmol). The reaction solution was stirred at rt for 2 h and cooled down to 0° C., and water was added dropwise. After stirring for 10 min, ethyl acetate was added. The organic solution was separated and washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified with flash chromatography (30% ethyl acetate/hexs) to give the desired product as yellow solid (15.6 g, 67%). LCMS calculated for C7H71NO3(M+H)+: m/z=280.0.

reactant | methyl 2-iodo-4-nitrobenzoate | 83.4 mmol, 25.6 g | IC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6INO4
reactant | lithium tetrahydroborate | 92 mmol, 2.2 g | [BH4-].[Li+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (2-Iodo-4-nitrophenyl)methanol | 15.6 g, 67% | IC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H6INO3
